US07863310B2
3-(4-Fluorophenyl-1-methyl-1H-pyrazole
Treat a solution of 3-(4-fluorophenyl)pyrazole (7.17 g, 44.2 mmol) in dry DMF (60 mL) with NaH (2.2 g, 92.8 mmol) at 0° C. for 15 min. Add iodomethane (3.3 mL, 53.04 mmol) and slowly warm to RT. Quench the reaction mixture with methanol (5 mL) and dilute with water (100 mL). Extract with EtOAc (3×70 mL), dry (MgSO4) and concentrate and purify (Biotage system eluting with dichloromethane:methanol 50:1) to give desired compound as a white solid (2.3 g, 29% yield).

reactant | 3-(4-fluorophenyl)pyrazole | 44.2 mmol, 7.17 g | FC1=CC=C(C=C1)C1=NNC=C1 | C9H7FN2
reactant | NaH | 92.8 mmol, 2.2 g | [H-].[Na+]
reactant | iodomethane | 53.04 mmol, 3.3 mL | IC | CH3I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-Fluorophenyl-1-methyl-1H-pyrazole | 2.3 g, 29% yield | FC1=CC=C(C=C1)C1=NN(C=C1)C | C10H9FN2
